US08623889B2
1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethanol
(Trifluoromethyl)trimethylsilane (2.0M solution in tetrahydrofuran, 0.75 mL) was added to a solution of 5-bromo-4-methylpicolinaldehyde (150 mg, 0.75 mmol). The mixture was cooled at 0° C. and tetra-N-butylammonium fluoride (1.0M solution in tetrahydrofuran, 2.2 mL) was added dropwise over 2 minutes. The reaction mixture was allowed to warm to room temperature and was stirred for 16 hours. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 4 g, ISCO, 0-50% ethyl acetate in heptane) to afford the title compound as a pale yellow solid (170 mg, 84%). 1H NMR (400 MHz, CDCl3) δ 8.65 (s, 1H), 7.29 (s, 1H), 5.04 (d, J=7.2 Hz, 1H), 4.95 (p, J=6.7 Hz, 1H), 2.46 (s, 3H).

reactant | (Trifluoromethyl)trimethylsilane | 2.0M, 0.75 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | 5-bromo-4-methylpicolinaldehyde | 0.75 mmol, 150 mg | BrC=1C(=CC(=NC1)C=O)C | C7H6BrNO
reactant | tetra-N-butylammonium fluoride | 1.0M, 2.2 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethanol | 170 mg, 84% | BrC=1C(=CC(=NC1)C(C(F)(F)F)O)C | C8H7BrF3NO
